US08049015B2
To 5-bromo-2-methoxypyridine (0.564 g, 3.0 mmol) and sodium acetate (0.246 g, 3.0 mmol) in acetic acid (3 mL) was added bromine (0.27 mL, 5.25 mmol), and the mixture was stirred at 80° C. for 3 hours, and then at room temperature overnight. The mixture was diluted with H2O and extracted with EtOAc, and the combined organic layers were washed with saturated aqueous Na2CO3 and saturated aqueous Na2S2O3. The organic layer was concentrated and dried under high vacuum to give 3,5-dibromo-2-methoxy-pyridine.

reactant | 5-bromo-2-methoxypyridine | 3.0 mmol, 0.564 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | sodium acetate | 3.0 mmol, 0.246 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 5.25 mmol, 0.27 mL | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 3,5-dibromo-2-methoxy-pyridine | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
